US04537962
2-amino-5-methylthio-1,3,4-thiadiazole (9.4 g) was reacted with ethyl 4-chloro-acetoacetate (15.8 g) in polyphosphoric acid (50 g) under stirring at 100° C. for 1 hour. After cooling, dilution with ice water and neutralization with 35% NaOH, the precipitate was filtered and washed with water until neutral to give 7-chloromethyl-2-methylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one, m.p. 168°-169° C. (12.4 g), which was reacted with triphenylphosphine (14.4 g) in acetonitrile (250 ml) under stirring at reflux temperature for 24 hours. After cooling the precipitate was filtered and washed with isopropyl ether to give (2-methylthio-5-oxo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-7-yl)-methyl-triphenylphosphonium chloride (24 g), which was suspended in dimethylsulphoxide (100 ml) and treated dropwise with potassium terbutoxide (5 g) dissolved in dimethylsulphoxide (80 ml) at a temperature of about 20° C. The solution of the ylide so obtained was then reacted with benzaldehyde (4.65 g) at room temperature for 60 minutes. After dilution with ice water the precipitate was extracted with ethyl acetate and the organic solution was evaporated in vacuo to dryness: after purification over SiO2 column with CHCl3 -hexane, crystallization from CH2Cl2 -methanol gave 3.8 g of 2-methylthio-7-trans-(2-phenyl-ethenyl)-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one, m.p. 180°-182° C., N.M.R. (CDCl3) δp.p.m.: 2.82 (s) (3H, --SCH3), 6.35 (s) (1H, C-6 proton), 6.70 (d) (1H, β-ethenyl proton), 7.2-7.7 (m) (5H, phenyl protons), 7.70 (d) (1H, α-ethenyl proton); JHαHβ =16 Hz.

reactant | 2-amino-5-methylthio-1,3,4-thiadiazole | 9.4 g | NC=1SC(=NN1)SC | C3H5N3S2
reactant | ethyl 4-chloro-acetoacetate | 15.8 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
product | 7-chloromethyl-2-methylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine-5-one | ClCC=1N=C2N(C(C1)=O)N=C(S2)SC | C7H6ClN3OS2
